US06294558B1
4-(4-Bromophenyl)-1,3-thiazole (step 1)
To a stirred solution of phosphorus pentasulfide (24.5 g, 55 mmol) in dioxane (250 ml) was added formamide (28.4 g, 630 mmol), and the mixture was heated at reflux temperature for 2 hours. The reaction mixture was cooled down to room temperature, and the solution was decanted away from solids. To a stirred solution of 2,4′-dibromoacetophenone (15 g, 54 mmol) in dioxane (100 ml) was added the thioformamide solution, and the mixture was heated at reflux temperature for 6 hours. The reaction mixture was cooled down to room temperature, and made basic by addition of 2N NaOH aqueous solution. The whole was extracted with diethyl ether. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with CH2Cl2 to give title compound (12.3 g, 95% yield).

reactant | phosphorus pentasulfide | 55 mmol, 24.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | formamide | 630 mmol, 28.4 g | C(=O)N | CH3NO
reactant | 2,4′-dibromoacetophenone | 54 mmol, 15 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | thioformamide | C(=S)N | CH3NS
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Bromophenyl)-1,3-thiazole | 12.3 g, 95% yield | BrC1=CC=C(C=C1)C=1N=CSC1 | C9H6BrNS
